US07964608B2
1-Cyclopentyl-7-methoxy-3-methyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (18 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and methyl isocyanate (0.5 mmol) following general procedure C. LCMS: m/z 326 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | methyl isocyanate | 0.5 mmol | CN=C=O | C2H3NO
product | 1-Cyclopentyl-7-methoxy-3-methyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 18 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C)=O | C18H19N3O3
